US08217064B2
Ethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)acetate (2.2 g, 7.8 mmol) was dissolved in 20 mL anhydrous DMF and NaH (60% wt. in oil, 0.189 g, 7.8 mmol) was added at 0° C. The reaction mixture was stirred for 0.5 h at 25° C. and isobutyl bromide (1.08 g, 7.8 mmol) was added drop wise at 0° C. The reaction mixture was stirred at 0° C. for 1 h and saturated NH4Cl solution (10 mL) was added. The reaction mixture was extracted with EtOAc (3×20 mL) and the combined organic phases were washed with water (3×20 mL) and brine (20 mL), and dried over MgSO4, filtered and concentrated under reduced pressure to give ethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)-4-methylpentanoate (2.06 g) of colorless oil.

reactant | Ethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)acetate | 7.8 mmol, 2.2 g | C1(CC1)COC=1C=C(C=CC1[N+](=O)[O-])CC(=O)OCC | C14H17NO5
reactant | NaH | 7.8 mmol, 0.189 g | [H-].[Na+]
reactant | isobutyl bromide | 7.8 mmol, 1.08 g | C(C(C)C)Br | C4H9Br
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)-4-methylpentanoate | 2.06 g | C1(CC1)COC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)CC(C)C | C18H25NO5
